US05550125
3.2. Ethyl (±)-6-methoxy-3,4-dihydro-2H-1,4-benzoxazine-3-acetate.
450 ml of ethanol are introduced into a 1 l reactor, with magnetic stirring, cooled to 0° C., and 7 g (0.32 mol) of sodium are added slowly, in small portions, followed by successive dropwise addition of 37.94 g (0.16 mol) of N-(2-hydroxy-5-methoxyphenyl)trifluoroacetamide and 41.2 g (0.16 mol) of pure ethyl 4-bromo-2-butenoate, and the mixture is heated at 80° C. for 2 h.

reactant | sodium | 0.32 mol, 7 g | [Na] | Na
reactant | N-(2-hydroxy-5-methoxyphenyl)trifluoroacetamide | 0.16 mol, 37.94 g | OC1=C(C=C(C=C1)OC)NC(C(F)(F)F)=O | C9H8F3NO3
reactant | ethyl 4-bromo-2-butenoate | 0.16 mol, 41.2 g | BrCC=CC(=O)OCC | C6H9BrO2
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | Ethyl (±)-6-methoxy-3,4-dihydro-2H-1,4-benzoxazine-3-acetate | COC=1C=CC2=C(NC(CO2)CC(=O)OCC)C1 | C13H17NO4
